US06573064B1
Expression and Purification of Recombinant Histidine-tagged Protein from M. smegmatis
Plasmids pJAM4 and pJAM21 were introduced into M. smegmatis mc2155 and kanamycin resistant colonies grown in M63 medium [7.6×10−2M (NH4)2SO4, 0.5M KH2PO4, 5.8×10−6M FeSO4. 7H2O, pH 7 ] supplemented with 2% succinate (Sigma Chemical Co., St Louis, Mo.) for uninduced cultures or 2% succinate and acetamide (Sigma) for induced cultures. Bacteria were grown for 3 days, after which cells were harvested and sonicated 4 times for 1 minute. Sonicates were analyzed for expression of recombinant proteins by SDS-PAGE and immunoblotting with the anti-35 kDa monoclonal antibody (mAb) CS38 for the M. leprae 35 kDa protein (CS38 supplied by Professor Patrick Brennan, Colorado State University, Colorado) or for the M. tuberculosis DES antigen using an anti-DES murine-derived polyclonal antibody. For protein purification, the sonicates were applied to Ni-NTA resin (Qiagen Inc., CA) and bound protein was washed consecutively with 5 mM, 20 mM and 40 mM imidazole (Sigma) in sonication buffer (1×PBS, 5% glycerol, 0.5 M NaCl and 5 mM MgCl2). Protein was eluted with 200 mM imidazole in sonication buffer and dialyzed against PBS. Nonhistidine-tagged M. leprae 35 kDa protein derived from M. smegmatis and the E. coli 35 kDa 6-histidine fusion protein were purified as described previously (Triccas et al., 1996).

reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
reactant | KH2PO4 | 0.5M | OP(=O)(O)[O-].[K+]
reactant | succinate | C(CCC(=O)[O-])(=O)[O-]
reactant | acetamide | C(C)(=O)N | C2H5NO
reactant | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
reactant | CS38 | CN1C(=NN=C1SCC(=O)NC2=CC=CC=C2C(=O)OC)C34CC5CC(C3)CC(C5)C4 | C23H28N4O3S
reactant | DES | CC/C(=C(/CC)\C=1C=CC(=CC1)O)/C=2C=CC(=CC2)O | C18H20O2
product | Histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
